US07192982B2
3-(3-Benzyloxy-phenyl)-2-methoxy-acrylic acid methyl ester
A mixture of 3-(3-Benzyloxy-phenyl)-3-hydroxy-2-methoxy-propionic acid methyl ester (1 eq), mesylchloride (1 eq) triethylamine (4 eq) and a catalytic amount of DMAP (0.1 eq) in dichloromethane was stirred at room temperature overnight. The Reaction mixture was diluted with ether and washed with HCl 1N. Dried and concentrated in vacuo to give a residue which was chromatographed in silica gel to yield the title compound.

reactant | 3-(3-Benzyloxy-phenyl)-3-hydroxy-2-methoxy-propionic acid methyl ester | 1 eq | COC(C(C(O)C1=CC(=CC=C1)OCC1=CC=CC=C1)OC)=O | C18H20O5
reactant | mesylchloride | 1 eq | S(=O)(=O)(C)Cl | CH3ClO2S
catalyst | DMAP | 0.1 eq | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | 3-(3-Benzyloxy-phenyl)-2-methoxy-acrylic acid methyl ester | COC(C(=CC1=CC(=CC=C1)OCC1=CC=CC=C1)OC)=O | C18H18O4
